US03947569
N-[N-(5-Oxo-L-Prolyl)-L-Histidyl]-L-Tryptophan Benzyl Ester
N-(5-Oxo-L-prolyl)-L-histidine hydrazide (0.840 g, 3 mmol) is dissolved in a solution at 0°C of dry dimethylformamide (14 ml), dry dimethyl sulfoxide (10.5 ml) and 2.4 N anhydrous gaseous hydrogen chloride in dry tetrahydrofuran (7.5 ml). The solution is cooled to -20°C and isoamyl nitrite (0.57 ml) is added with stirring. The solution is stirred for 30 minutes at -20°C and is then cooled to -24°C. Triethylamine (3.2 ml) is slowly added until the solution is slightly alkaline pH 8-9. While stirring at -20°C, a solution of L-tryptophan benzyl ester (0.970 g, 3.3 mmol) in dry dimethylformamide (3.0 ml) is added. The solution is stirred at -20°C for 30 minutes, at 0°C for 30 minutes, and then at ice bath temperature for 18 hours. The solution is filtered and the precipitate is washed with dry dimethylformamide (2 × 2 ml). The combined filtrates are concentrated under reduced pressure at 40°C. The residue is dissolved in methanol (10 ml), diethyl ether (300 ml) is slowly added, and the precipitate is collected by filtration. The precipitate is once more dissolved in methanol (10 ml) and is precipitated by the addition of diethyl ether (300 ml). The precipitate is crystallized from methanol to give the title compound as a fine white powder, m.p. 250°-252°C, [α]D25 +1.6° (c = 1.0, DMF).

reactant | N-(5-Oxo-L-prolyl)-L-histidine hydrazide | 3 mmol, 0.840 g | O=C1CC[C@H](N1)C(=O)N(N)C([C@@H](N)CC1=CNC=N1)=O | C11H16N6O3
reactant | isoamyl nitrite | 0.57 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | Triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | L-tryptophan benzyl ester | 3.3 mmol, 0.970 g | C(C1=CC=CC=C1)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C18H18N2O2
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | dimethyl sulfoxide | 10.5 ml | CS(=O)C | C2H6OS
solvent | hydrogen chloride | 2.4 N | Cl | ClH
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | N-[N-(5-Oxo-L-Prolyl)-L-Histidyl]-L-Tryptophan Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@H]1NC(CC1)=O)=O)CC1=CNC=N1)=O)CC1=CNC2=CC=CC=C12)=O | C29H30N6O5
